US06271225B1
In the same manner as in Example 1 and using ethyl 6-bromo-2-(2-amino-5-fluoroanilino)benzo[b]thiophene-3-carboxylate (3.8 g), 1-methylpiperazine (16 ml), anisole (85 ml) and titanium tetrachloride (3.0 ml), 3-bromo-8-fluoro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine (1.16 g) was obtained.

reactant | ethyl 6-bromo-2-(2-amino-5-fluoroanilino)benzo[b]thiophene-3-carboxylate | 3.8 g | BrC=1C=CC2=C(SC(=C2C(=O)OCC)NC2=C(C=CC(=C2)F)N)C1 | C17H14BrFN2O2S
reactant | 1-methylpiperazine | 16 ml | CN1CCNCC1 | C5H12N2
reactant | anisole | 85 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | titanium tetrachloride | 3.0 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3-bromo-8-fluoro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | 1.16 g | BrC1=CC2=C(C=C1)C1=C(NC3=C(N=C1N1CCN(CC1)C)C=CC(=C3)F)S2 | C20H18BrFN4S
